US07071175B1
To a solution of N-[5-(1-hydroxy-butyl)-pyridin-2-yl]-2,2-dimethyl-propionamide (1.025 g, 4.09 mmol) in trichloromethane (12 mL), thionylchloride (6 mL) was added and the mixture was heated to 55° C. for 1 h. Then the solution was concentrated under reduced pressure to leave crude N-[5-(1-chloro-butyl)-pyridin-2-yl]-2,2-dimethyl-propionamide hydrochloride as a colourless solid.

reactant | N-[5-(1-hydroxy-butyl)-pyridin-2-yl]-2,2-dimethyl-propionamide | 4.09 mmol, 1.025 g | OC(CCC)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C14H22N2O2
reactant | trichloromethane | 12 mL | ClC(Cl)Cl | CHCl3
solvent | thionylchloride | 6 mL | S(=O)(Cl)Cl | Cl2OS
product | N-[5-(1-chloro-butyl)-pyridin-2-yl]-2,2-dimethyl-propionamide hydrochloride | Cl.ClC(CCC)C=1C=CC(=NC1)NC(C(C)(C)C)=O | InChI=1S/C14H21ClN2O.ClH/c1-5-6-11(15)10-7-8-12(16-9-10)17-13(18)14(2,3)4;/h7-9,11H,5-6H2,1-4H3,(H,16,17,18);1H
